US05464867
4-(3,4-Dioxo-2-ethoxy-cyclobut-1-enylamino)-benzonitrile (1 g, 4.1 mmol) and a solution of (R)-1,2,2-trimethylpropylamine (8.2 mmol) in ethanol (50 mL) were stirred at room temperature for 24 hours. The resulting yellow slurry was filtered and rinsed with ethyl acetate to yield 0.92 g (75%) of (+)-(R)-4-[3,4-dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enylamino]-benzonitrile as a yellow solid: spectral data was identical to the product of Example 1, paragraph 2, except with [α]D25 =+12° (DMSO, c 0.009).

reactant | 4-(3,4-Dioxo-2-ethoxy-cyclobut-1-enylamino)-benzonitrile | 4.1 mmol, 1 g | O=C1C(=C(C1=O)NC1=CC=C(C#N)C=C1)OCC | C13H10N2O3
reactant | (R)-1,2,2-trimethylpropylamine | 8.2 mmol | C[C@H](C(C)(C)C)N | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (+)-(R)-4-[3,4-dioxo-2-(1,2,2-trimethyl-propylamino)-cyclobut-1-enylamino]-benzonitrile | 0.92 g, 75% | O=C1C(=C(C1=O)NC1=CC=C(C#N)C=C1)N[C@@H](C(C)(C)C)C | C17H19N3O2
